US08022062B2
Add potassium hydroxide (5.4 g, 96.2 mmol) to a solution of 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine (1.5 g, 4.7 mmol) in degassed methanol (75 mL) under a nitrogen atmosphere. Heat the mixture at 80° C. for 6 h Cool the mixture to ambient temperature, then concentrate in vacuo to an oil. Dissolve the oil in EtOAc (50 mL) and wash with saturated aqueous ammonium chloride (30 mL). Separate the organic layer and extract the aqueous layer with EtOAc (3×50 mL). Dry the combined organic extracts over Na2SO4, filter and concentrate in vacuo to an oil (1.4 g). Dissolve the oil in anhydrous DMF (25 mL), then slowly add sodium hydride (282 mg, 7.1 mmol) and bromoacetonitrile (470 μl, 7.1 mmol). Stir the mixture under nitrogen at ambient temperature for 16 h. Dilute the mixture slowly with EtOAc (100 mL) and wash with cold aqueous saturated ammonium chloride (40 mL). Separate the organic layer and extract the aqueous layer with EtOAc (3×50 mL). Combine the organic extracts and concentrate in vacuo. Purify the residue by chromatography on silica gel eluting with hexane/EtOAc (9:1 to 7:3 gradient) to obtain 3-tert-butoxycarbonyl-7-chloro-6-(1-cyano-methylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (1.34 g, 81%). MS (ES+) m/z: 253.2 (M-Boc)+.

reactant | potassium hydroxide | 96.2 mmol, 5.4 g | [OH-].[K+]
reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 4.7 mmol, 1.5 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | sodium hydride | 7.1 mmol, 282 mg | [H-].[Na+]
reactant | bromoacetonitrile | 7.1 mmol, 470 μl | BrCC#N | C2H2BrN
solvent | methanol | 75 mL | CO | CH4O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 3-tert-butoxycarbonyl-7-chloro-6-(1-cyano-methylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 1.34 g, 81% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCC#N | C17H21ClN2O2S
